US08476290B2
1-propyl-1H-imidazole-2-carboaldehyde
To 1H-imidazole-2-carboaldehyde (800 mg), N-methylpyrrolidone (10 mL) was added, followed by dissolution with heating. To this solution, 1-bromopropane (2.05 g) and potassium carbonate (1.15 g) were added. The reaction solution was stirred at 40° C. for 12 hours. To the reaction solution, water (10 mL) was added. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (dichloromethane) to obtain the title compound (893 mg) having the following physical properties.

reactant | 1H-imidazole-2-carboaldehyde | 800 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
reactant | 1-bromopropane | 2.05 g | BrCCC | C3H7Br
reactant | potassium carbonate | 1.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 mL | O | H2O
product | 1-propyl-1H-imidazole-2-carboaldehyde | 893 mg | C(CC)N1C(=NC=C1)C=O | C7H10N2O
